US03978045
To an ice-cooled suspension of 1.0 gram of N2 -dansyl-L-arginine in 15 ml of isopropanol was added dropwise 0.5 ml of thionyl chloride with vigorous stirring. After being allowed to stand for 2 hours at room temperature, the reaction mixture was refluxed for 4 hours, and was evaporated to dryness (syrup). Treatment of the residual syrup with cold ethyl ether gave crude crystals. After recrystallization from isopropanol-ethyl ether, colorless N2 -dansyl-L-arginine isopropyl ester dihydrochloride was obtained in 90% yield; mp. 110°-120°C.

reactant | N2 dansyl-L-arginine | 1.0 gram | N#N.S(=O)(=O)(C1=CC=CC=2C(N(C)C)=CC=CC12)N[C@@H](CCCNC(N)=N)C(=O)O
reactant | thionyl chloride | 0.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | isopropanol | 15 ml | C(C)(C)O | C3H8O
product | N2 dansyl-L-arginine isopropyl ester dihydrochloride | 90% yield | N#N.Cl.Cl.C(C)(C)OC([C@@H](NS(=O)(=O)C1=CC=CC=2C(N(C)C)=CC=CC12)CCCNC(N)=N)=O | InChI=1S/C21H31N5O4S.2ClH.N2/c1-14(2)30-20(27)17(10-7-13-24-21(22)23)25-31(28,29)19-12-6-8-15-16(19)9-5-11-18(15)26(3)4;;;1-2/h5-6,8-9,11-12,14,17,25H,7,10,13H2,1-4H3,(H4,22,23,24);2*1H;/t17-;;;/m0.../s1
